US04160094
A solution of 4-methyl-5,6,7,8-tetrahydroquinoline (5.83 g., 0.04 mole) in dry benzene (40 ml.) was cooled to 0° and to the stirred solution was added dropwise a 15% w/w solution of butyl lithium in hexane (17.5 ml., 0.04 mole) under an atmosphere of nitrogen. The red reaction mixture of 8-lithio-4-methyl-5,6,7,8-tetrahydroquinoline was stirred at 0° for a further 30 minutes. It can then be treated with carbon dioxide followed by methanolic HCl to obtain methyl-4-methyl-5,6,7,8-tetrahydroquinoline-8-carboxylate which can be converted to 4-methyl-5,6,7,8-tetrahydroquinoline-8-thiocarboxamide by the procedures described in copending U.S. Ser. No. 460,265.

reactant | 4-methyl-5,6,7,8-tetrahydroquinoline | 0.04 mole, 5.83 g | CC1=CC=NC=2CCCCC12 | C10H13N
reactant | butyl lithium | C(CCC)[Li]
reactant | hexane | 0.04 mole, 17.5 ml | CCCCCC | C6H14
reactant | 8-lithio-4-methyl-5,6,7,8-tetrahydroquinoline | [Li]C1CCCC=2C(=CC=NC12)C
reactant | carbon dioxide | C(=O)=O | CO2
reactant | HCl | Cl | ClH
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | methyl-4-methyl-5,6,7,8-tetrahydroquinoline-8-carboxylate | COC(=O)C1CCCC=2C(=CC=NC12)C | C12H15NO2
